US08076345B2
2-{4-[(S)-2-Hydroxy-1-(6-trifluoromethyl-pyridin-3-yl)-ethylamino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-5-methyl-benzonitrile
A reaction mixture of 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile (160 mg, 0.56 mmol) and (S)-2-amino-2-(6-(trifluoromethyl)pyridin-3-yl)ethanol (118 mg, 0.57 mmol) (prepared similarly according to the method for Intermediate 10) in acetonitrile (2 mL) and N,N-diisopropylethylamine (0.4 mL) was subjected to microwave irradiation at 185° C. for 3.5 h. The reaction mixture was concentrated and the residue was purified by semi-preparative HPLC (100×20.2 mm, C18 column; 40-60% acetonitrile-water [10 mM diethylamine]) to yield a light brown solid.

reactant | 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | 0.56 mmol, 160 mg | ClC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C15H13ClN4
reactant | (S)-2-amino-2-(6-(trifluoromethyl)pyridin-3-yl)ethanol | 0.57 mmol, 118 mg | N[C@H](CO)C=1C=NC(=CC1)C(F)(F)F | C8H9F3N2O
reactant | N,N-diisopropylethylamine | 0.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 2-{4-[(S)-2-Hydroxy-1-(6-trifluoromethyl-pyridin-3-yl)-ethylamino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-5-methyl-benzonitrile | OC[C@H](C=1C=NC(=CC1)C(F)(F)F)NC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C23H21F3N6O
